US09371473B2
Benzoyl isothiocyanate was prepared as a starting material for benzoyl thiourea and derivates thereof. In a 500 mL three-neck round-bottom flask (“RBF”), fitted with a condenser, thermo-probe, sealed system nitrogen purge, pressure-equilibrated addition funnel and mechanical stirrer, were placed solid ammonium thiocyanate (16.9 g, 0.22 mol) and dichloromethane (100 mL). The stirred mixture was cooled in an ice-water bath to a temperature of about 10-15° C. To the stirred mixture was added a solution of benzoyl chloride (28.4 g, 0.2 mol) in dichloromethane (50 mL) over a period of time of 20 minutes and the reaction mixture was warmed to a temperature near reflux (39° C.) for a period of time of 1 hour. Reaction completion was confirmed by FT-IR analysis. The solution was then cooled to a temperature of about 10-15° C. The solution can be concentrated to an oil to provide the benzoyl isothiocyanate. A boiling point of 128-131° C. at 15 mm Hg was measured.

reactant | benzoyl thiourea | C(C1=CC=CC=C1)(=O)NC(=S)N | C8H8N2OS
reactant | ammonium thiocyanate | 0.22 mol, 16.9 g | [S-]C#N.[NH4+]
reactant | benzoyl chloride | 0.2 mol, 28.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
